US09353107B2
Step-ii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-methyl-4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methylphenyl)piperazine-1-carboxylate (210 mg, 0.291 mmol) was deprotected in methanol/HCl in dioxane (5/10 ml) to afford 172 mg (95.5% yield) of the titled compound. MS: m/z=621.3 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methylphenyl)piperazine-1-carboxylate | 0.291 mmol, 210 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C40H41FN6O4S
reactant | methanol HCl | CO.Cl
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-methyl-4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 172 mg, 95.5% yield | Cl.FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)N3CCNCC3)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | InChI=1S/C35H33FN6O2S.ClH/c1-24-6-9-31(10-7-24)45(43,44)42-23-33(29-20-39-41(22-29)21-26-4-3-5-30(36)17-26)32-18-28(19-38-35(32)42)27-8-11-34(25(2)16-27)40-14-12-37-13-15-40;/h3-11,16-20,22-23,37H,12-15,21H2,1-2H3;1H
